US07790903B2
Synthesis of benzyl (R)-2-[3-[N-(benzoxazol-2-yl)-N-(3-(4-methoxyphenoxy)propyl)aminomethyl]phenoxy]butyrate
To a solution of N-(benzoxazol-2-yl)-N-(3-(4-methoxyphenoxy)propyl)-3-hydrox ybenzylamine (52 mg) in acetonitrile (5 mL), potassium carbonate (18 mg) in a powder form was added at room temperature, and the resulting mixture was stirred for 10 minutes. A solution of benzyl (S)-2-trifluoromethanesulfonyloxybutyrate (50 mg) in acetonitrile (2 mL) was added dropwise to the reaction liquor, and the mixture was stirred at the same temperature for 18 hours. Ethyl acetate (50 mL) was added to the reaction liquor, and the mixture was washed with water and saturated brine, and dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (hexane/ethyl acetate=2/1) to obtain a colorless oil (73 mg, 98.3%).

reactant | N-(benzoxazol-2-yl)-N-(3-(4-methoxyphenoxy)propyl)-3-hydrox ybenzylamine | 52 mg | O1C(=NC2=C1C=CC=C2)N(CCCOC2=CC=C(C=C2)OC)CC2=CC(=CC=C2)O | C24H24N2O4
reactant | potassium carbonate | 18 mg | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl (S)-2-trifluoromethanesulfonyloxybutyrate | 50 mg | FC(S(=O)(=O)O[C@H](C(=O)OCC1=CC=CC=C1)CC)(F)F | C12H13F3O5S
reactant | Ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | benzyl (R)-2-[3-[N-(benzoxazol-2-yl)-N-(3-(4-methoxyphenoxy)propyl)aminomethyl]phenoxy]butyrate | 73 mg, 98.3% | O1C(=NC2=C1C=CC=C2)N(CCCOC2=CC=C(C=C2)OC)CC=2C=C(O[C@@H](C(=O)OCC1=CC=CC=C1)CC)C=CC2 | C35H36N2O6
